US08431575B2
To a solution of 4-(4-benzyloxy-3-methoxy-phenyl)-3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazine (1.0 mmol, 462 mg) in methanol/ethyl acetate (10 mL, 1/1) was added 10% palladium on activated carbon (70 mg). The mixture was repeatedly de-gassed under vacuum, filled with hydrogen for 3 times. Then hydrogen balloons were attached to the reaction, which was stirred at room temperature for 2 hours. TLC/LCMS monitored to completion. The mixture was then filtered through celite, the celite cake was washed with 1/1 methanol/ethyl acetate for 3 times, and the organic layers were combined and condensed under reduced pressure to give 4-[3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazin-4-yl]-2-methoxy-phenol as a white powder (327 mg), which was used directly in the next step.

reactant | 4-(4-benzyloxy-3-methoxy-phenyl)-3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazine | 1.0 mmol, 462 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=C(N=NC(=C1)OC1CCN(CC1)C)CCCC)OC | C28H35N3O3
solvent | methanol ethyl acetate | 10 mL | CO.C(C)(=O)OCC
catalyst | palladium on activated carbon | 70 mg | [Pd] | Pd
product | 4-[3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazin-4-yl]-2-methoxy-phenol | 327 mg | C(CCC)C=1N=NC(=CC1C1=CC(=C(C=C1)O)OC)OC1CCN(CC1)C | C21H29N3O3
